US09340538B2
Step A: Morpholine-3-carboxamide
A mixture of methyl morpholine-3-carboxylate hydrochloride (0.55 g, 3.0 mmol) and a solution of NH3 in methanol (7 mol/L, 20 mL) was stirred at 50° C. for 24 hours in a sealed tube. The mixture was concentrated in vacuo to give the title compound as glutinous semisolid (0.39 g, 99%). The compound was characterized by the following spectroscopic data:

reactant | methyl morpholine-3-carboxylate hydrochloride | 3.0 mmol, 0.55 g | Cl.N1C(COCC1)C(=O)OC
reactant | NH3 | N | H3N
solvent | methanol | 7 mol/L, 20 mL | CO | CH4O
product | Morpholine-3-carboxamide | 0.39 g, 99% | N1C(COCC1)C(=O)N | C5H10N2O2
